US05656644
(a) 1-Cyano-1-(4-pyridyl)methyl 4-methoxybenzoate
The title compound was prepared using the same procedure Lantos, I. et al. (J. Med. Chem. 1984, 27, 72-75) employed to prepare 1-cyano-1(4-pyridyl)-methyl benzoate, except using 4-methoxybenzoyl chloride: 1H NMR (CDCl3): d 8.81 (d, 2H); 8.10 (d, 2H); 7.57 (d, 2H); 7.01 (d, 2H); 6.74 (s, 1H); 3.93 (s, 3H).

reactant | 1-cyano-1(4-pyridyl)-methyl benzoate | C(C1=CC=CC=C1)(=O)OC(C1=CC=NC=C1)C#N | C14H10N2O2
reactant | 4-methoxybenzoyl chloride | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
product | 1-Cyano-1-(4-pyridyl)methyl 4-methoxybenzoate | COC1=CC=C(C(=O)OC(C2=CC=NC=C2)C#N)C=C1 | C15H12N2O3
